US05834491
1,1'-(1,12-dodecanediyl)bis(4-(4-methyl-phenyl)-2(1H)-pyridinimine) dihydrobromide
The procedure is as above, with dibromododecane and 2-amino-4-para-tolylpyridine, which is synthesized according to Chambron J.Cl. Strasbourg Tetrah. 1987 43 (5) 895/905. The product obtained is purified in the base state on a silica column with a benzene/ethyl acetate mixture. It is reconverted to the hydrobromide with a mixture of ether and an isopropanol solution of hydrogen bromide. It can then be recrystallized.

reactant | dibromododecane | BrC(CCCCCCCCCCC)Br | C12H24Br2
reactant | 2-amino-4-para-tolylpyridine | NC1=NC=CC(=C1)C1=CC=C(C=C1)C | C12H12N2
product | 1,1'-(1,12-dodecanediyl)bis(4-(4-methyl-phenyl)-2(1H)-pyridinimine) dihydrobromide | Br.Br.C(CCCCCCCCCCCN1C(C=C(C=C1)C1=CC=C(C=C1)C)=N)N1C(C=C(C=C1)C1=CC=C(C=C1)C)=N | InChI=1S/C36H46N4.2BrH/c1-29-13-17-31(18-14-29)33-21-25-39(35(37)27-33)23-11-9-7-5-3-4-6-8-10-12-24-40-26-22-34(28-36(40)38)32-19-15-30(2)16-20-32;;/h13-22,25-28,37-38H,3-12,23-24H2,1-2H3;2*1H
